US06448397B1
A slurry of lithium aluminum hydride (6.9 g, 183 mmol) in ethyl ether (300 mL) is stirred in an ice bath under an argon atmosphere. A solution of 7-methyl4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine (23.22 g, 91.3 mmol) in ethyl ether (250 mL) and dry THF (40 mL) is added dropwise over 1.5 h. The mixture is removed from the ice bath and allowed to stir for 18 h. Water (50 mL) is slowly added, forming solids. The solids are collected by filtration and washed with ethyl ether. The resulting filtrates are combined and washed three times with water (400 mL), dried over magnesium sulfate, and concentrated to dryness to give a solid. The solids are slurried in hexane, collected, and dried to give 16.5 g (69%) of 7-methyl-3-phenyl-2,3-dihydro-4H-1,4-benzoxazin-4-amine.

reactant | lithium aluminum hydride | 183 mmol, 6.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-methyl4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine | 91.3 mmol, 23.22 g | CC1=CC2=C(N(C(CO2)C2=CC=CC=C2)N=O)C=C1 | C15H14N2O2
solvent | ethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 7-methyl-3-phenyl-2,3-dihydro-4H-1,4-benzoxazin-4-amine | 16.5 g, 69% | CC1=CC2=C(N(C(CO2)C2=CC=CC=C2)N)C=C1 | C15H16N2O
